US04639264
2-Amino-4-methoxy-6-ethoxythiocarbonylthiomethylpyrimidine (compound No. 1.5)
16.0 g of potassium ethylxanthogenate and 17.4 g of 2-amino-4-chloromethyl-6-methoxy-pyrimidine are refluxed in 100 ml of ethanol for 30 minutes. After the reaction solution has cooled, it is diluted with about 1 liter of water, and the product which precipitates is separated and dried. The yield is 22.5 g (87% of theory) of 2-amino-4-methoxy-6-ethoxythiocarbonylthiomethyl-pyrimidine, m.p. 91°-93° C.

reactant | potassium ethylxanthogenate | 16.0 g | CCOC(=S)[S-].[K+]
reactant | 2-amino-4-chloromethyl-6-methoxy-pyrimidine | 17.4 g | NC1=NC(=CC(=N1)CCl)OC | C6H8ClN3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | about 1 liter | O | H2O
product | 2-Amino-4-methoxy-6-ethoxythiocarbonylthiomethylpyrimidine | NC1=NC(=CC(=N1)OC)CSC(=S)OCC | C9H13N3O2S2
